US06949552B2
To 7.6 g of 1-ethoxycarbonyl-4-[2-chloro-2-(4-fluorophenyl)ethyl]piperazine hydrochloride were poured 5 ml of 25% aqueous ammonia solution and water and, after extraction with ether, the organic layer was dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. The residue was dissolved in 20 ml of benzene, and 5.4 ml of 1-methylpiperazine was added, followed by heating at 65° C. for 3.5 hours. To the reaction solution were poured 25% aqueous ammonia solution and water and, after extraction with ether, the organic layer was dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (Chromatorex NH, hexane:ethyl acetate=4:1) to give 6.58 g of 1-ethoxycarbonyl-4-[2-(4-fluorophenyl)-2-(4-methylpiperazino)ethyl]piperazine as an oil.

reactant | 1-ethoxycarbonyl-4-[2-chloro-2-(4-fluorophenyl)ethyl]piperazine hydrochloride | 7.6 g | Cl.C(C)OC(=O)N1CCN(CC1)CC(C1=CC=C(C=C1)F)Cl
reactant | ammonia | 5 ml | N | H3N
solvent | water | O | H2O
product | 1-ethoxycarbonyl-4-[2-(4-fluorophenyl)-2-(4-methylpiperazino)ethyl]piperazine | 6.58 g | C(C)OC(=O)N1CCN(CC1)CC(N1CCN(CC1)C)C1=CC=C(C=C1)F | C20H31FN4O2
